US09085583B2
To a mixed solution of lithium hydroxide monohydrate (0.68 g, 16.8 mmol) in tetrahydrofuran (20 mL) and water (10 mL), methyl 1-(1-phenylethyl)-1H-indazole-3-carboxylate (2.3 g, 8.4 mmol) was added. The mixture was stirred at 45° C. for 12 hours. Then the organic solvent was removed under reduced pressure. To the residue, 1 N hydrochloride aqueous solution was added to adjust the pH to 3-4, and then the mixture was extracted with ethyl acetate (20 mL×3). The organic phase was combined, dried over anhydrous sodium sulfate, filtered and concentrated to afford 1-(1-phenylethyl)-1H-indazole-3-carboxylic acid (1.3 g, 60%) as a white solid, which was directly used in next step. LRMS (M+H+) m/z: calcd 266.29. found 266.

reactant | lithium hydroxide monohydrate | 16.8 mmol, 0.68 g | O.[OH-].[Li+]
reactant | methyl 1-(1-phenylethyl)-1H-indazole-3-carboxylate | 8.4 mmol, 2.3 g | C1(=CC=CC=C1)C(C)N1N=C(C2=CC=CC=C12)C(=O)OC | C17H16N2O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 1-(1-phenylethyl)-1H-indazole-3-carboxylic acid | 1.3 g, 60% | C1(=CC=CC=C1)C(C)N1N=C(C2=CC=CC=C12)C(=O)O | C16H14N2O2
